US08110575B2
N-benzyl-N-ethyl-6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-yl-amino)pyrimidine-4-carboxamide
100 mg (0.24 mmol) 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride, 50 μL (0.33 mmol) benzyl-ethyl-amine, 0.10 mL (0.72 mmol) TEA and 85 mg (0.27 mmol) TBTU in 1.8 mL DMF were stirred overnight at RT. The purification was carried out by preparative HPLC-MS. The product-containing fractions were combined and lyophilised.

reactant | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride | 0.24 mmol, 100 mg | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O
reactant | benzyl-ethyl-amine | 0.33 mmol, 50 μL | C(C1=CC=CC=C1)NCC | C9H13N
reactant | TBTU | 0.27 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | N-benzyl-N-ethyl-6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-yl-amino)pyrimidine-4-carboxamide | C(C1=CC=CC=C1)N(C(=O)C1=NC=NC(=C1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1)CC | C29H26N6O2
